US06207665B1
A solution of (2R)-3-benzyloxy-2-(N-(t-butoxycarbonyl)amino)propanoic acid (23 g, 78 mmol, [α]D−4.4° (c=2, H2O)) in methanol (250 mL) was cooled to 0° C. and HCl (g) bubbled into the solution until saturated. The resulting mixture was stirred at ambient temperature for 17 hours and then concentrated in vacuo to afford 17 g (100% yield) of (2R)-3-benzyloxy-2-aminopropanoic acid methyl ester, a compound of formula (M), as a white solid; NMR (DMSO-d6) 8.7 (br s, 3), 7.4-7.3 (m, 5), 4.5 (q, 2), 4.4 (br s, 1), 3.8 (s, 2), 3.7 (s, 3) ppm.

reactant | (2R)-3-benzyloxy-2-(N-(t-butoxycarbonyl)amino)propanoic acid | 78 mmol, 23 g | C(C1=CC=CC=C1)OC[C@H](C(=O)O)NC(=O)OC(C)(C)C | C15H21NO5
reactant | methanol | 250 mL | CO | CH4O
product | (2R)-3-benzyloxy-2-aminopropanoic acid methyl ester | 17 g, 100% yield | COC([C@@H](COCC1=CC=CC=C1)N)=O | C11H15NO3
